US05972965
To a solution of 3-hydroxymethyl-1-ethoxycarbonylmethoxybenzene (1 g) in dichloromethane (10 ml) was added BBr3 (0.45 ml). After 1 hour, the solvent was evaporated in vacuo and the residue was dissolved in ethyl acetate. The organic layer was washed with NaHCO3 and brine. The dried solvent was evaporated in vacuo to give 3-bromomethyl-1-ethoxycarbonylmethoxybenzene (0.76 g). NMR (CDCl3, δ): 1.29 (3H, t, J=7 Hz), 4.24 (2H, d, J=7 Hz), 4.61 (2H, s), 5.00 (1H, d, J=3.0 Hz), 5.05 (1H, d, J=3.0 Hz), 6.7-7.1 (3H, m), 7.2-7.3 (1H, m)

reactant | 3-hydroxymethyl-1-ethoxycarbonylmethoxybenzene | 1 g | OCC=1C=C(C=CC1)OCC(=O)OCC | C11H14O4
reactant | BBr3 | 0.45 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-bromomethyl-1-ethoxycarbonylmethoxybenzene | 0.76 g | BrCC=1C=C(C=CC1)OCC(=O)OCC | C11H13BrO3
